US05155113
Preparation of 2,4-di(4-ethoxybenzoyloxy)pyridine
The general procedure of Example 16 was followed using 1.00 g of 4-hydroxy-2-pyridone and 3.32 g of 4-ethoxybenzoyl chloride to produce 220 mg of the title compound in a yield of 6%.

reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | 4-ethoxybenzoyl chloride | 3.32 g | C(C)OC1=CC=C(C(=O)Cl)C=C1 | C9H9ClO2
product | 2,4-di(4-ethoxybenzoyloxy)pyridine | 220 mg, yield of 6% | C(C)OC1=CC=C(C(=O)OC2=NC=CC(=C2)OC(C2=CC=C(C=C2)OCC)=O)C=C1 | C23H21NO6
